US05006157
Preparation of 1-(3-chloro-α,α-dimethylbenzylamino)-2-propanone
27.8 g (0.3 mol) of chloroacetone, 16.0 g (0.1 mol) of 3-chloro-α,α-dimethylbenzylamine and 11.2 g (0.11 mol) of triethylamine were dissolved in 200 ml of N,N-dimethylacetamide, and the mixture was heated at 80° C.. for 3 hours under stirring. The reaction solution was cooled, then poured into a large amount of water and extracted with toluene. The toluene layer was washed with water and then dried over anhydrous magensium sulfate. Then, the toluene layer was distilled off under reduced pressure to obtain 6.9 g (yield: 30.6%) of the desired compound.

reactant | chloroacetone | 0.3 mol, 27.8 g | ClCC(C)=O | C3H5ClO
reactant | 3-chloro-α,α-dimethylbenzylamine | 0.1 mol, 16.0 g | ClC=1C=C(C(C)(C)N)C=CC1 | C9H12ClN
reactant | triethylamine | 0.11 mol, 11.2 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 200 ml | CN(C(C)=O)C | C4H9NO
product | 1-(3-chloro-α,α-dimethylbenzylamino)-2-propanone | 6.9 g, yield: 30.6% | ClC=1C=C(C(C)(C)NCC(C)=O)C=CC1 | C12H16ClNO
